US07994185B2
Step D: 2,6-difluoro-N-{2-fluoro-3-[5-(2-methyl-4-pyrimidinyl)-2-(4-piperidinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide
To a solution of 1,1-dimethylethyl 4-[4-(3-{[(2,6-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-2-yl]-1-piperidinecarboxylate (60 mg, 0.093 mmol) in dichloromethane (DCM) (2 mL) was added TFA (0.5 μL, 6.49 μmol), and the reaction mixture was stirred for 1 h. The reaction mixture was concentrated and the residue was purified using RP-HPLC. The TFA salt was neutralized to give 32 mg of title compound. MS (ESI): 546.1 [M+1]+.

reactant | 1,1-dimethylethyl 4-[4-(3-{[(2,6-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-2-yl]-1-piperidinecarboxylate | 0.093 mmol, 60 mg | FC1=C(C(=CC=C1)F)S(=O)(=O)NC=1C(=C(C=CC1)C=1N=C(SC1C1=NC(=NC=C1)C)C1CCN(CC1)C(=O)OC(C)(C)C)F | C30H30F3N5O4S2
reactant | TFA | 6.49 μmol, 0.5 μL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2,6-difluoro-N-{2-fluoro-3-[5-(2-methyl-4-pyrimidinyl)-2-(4-piperidinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide | 32 mg | FC1=C(C(=CC=C1)F)S(=O)(=O)NC1=C(C(=CC=C1)C=1N=C(SC1C1=NC(=NC=C1)C)C1CCNCC1)F | C25H22F3N5O2S2
